US07026313B2
A solution of 4-cyclopentylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde (prepared as described in WO 98/33798 (incorporated herein by reference)) (30 g, 126 mmol) was suspended in dry THF (700 mL) under argon, and the mixture was cooled to −70° C. A solution of lithium bis(trimethylsilyl) amide, 1.0M in hexane (316 mL, 316 mmol) was added dropwise with stirring over 30 minutes. A solution of methanesulfonylchloride (10.5 ml, 136 mmol) in dry THF (25 mL) was added over 5 minutes, and then the reaction mixture was left to stir at −55° C. for at least 1 hour. An additional portion of methanesulfonylchloride (9 ml, 78 mmol) was added over 2 hours as the temperature was allowed to reach 0° C. The reaction was then cooled to −70° C. and left undisturbed overnight. The reaction mixture was then evaporated in vacuo to an oil and poured into a mixture of diethyl ether (1 L) and 1N citric acid solution (375 ml). The pH of the mixture was adjusted to 8 by addition of 4N NaOH, agitated, and the ether phase was decanted. The aqueous phase was extracted with diethylether, the organic phases were combined, washed with water, brine, and dried over anhydrous magnesium sulfate. After removal of the drying agent and evaporation of the solvent, the crude product was purified by chromatography on 300 g silica gel (10%–20% ethyl acetate in hexanes) to yield 7.01 g (18.7% yield) 1-Cyclopentyl-7-methylsulfanyl-1H-2-thia-1,6,8-triaza-naphthalene 2,2-dioxide as a colorless solid. MS: APCI: M+1: 298.1 (M: 297.4).

reactant | 4-cyclopentylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde | C1(CCCC1)NC1=NC(=NC=C1C=O)SC | C11H15N3OS
reactant | lithium bis(trimethylsilyl) amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | hexane | 316 mmol, 316 mL | CCCCCC | C6H14
reactant | methanesulfonylchloride | 136 mmol, 10.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonylchloride | 78 mmol, 9 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 700 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-Cyclopentyl-7-methylsulfanyl-1H-2-thia-1,6,8-triaza-naphthalene 2,2-dioxide | 7.01 g, 18.7% yield | C1(CCCC1)N1S(C=CC2=CN=C(N=C12)SC)(=O)=O | C12H15N3O2S2
